US06121308
c. 4-[2-(1-methyl-5-nitro-indol-2-yl)ethyl]benzonitrile
Within 2 hours 1.7 g (6.53 mmol) of 4-[2-(1-methyl-indol-2-yl)ethyl]benzonitrile is dissolved in 20 ml conc. sulphuric acid at 15° C. and then cooled to 2° C. Then 0.66 g (6.53 mmol) of potassium nitrate are added batchwise (temperature rise to about 10° C.). The mixture is stirred for a further 30 minutes at 2-5° C. and then poured onto ice. The yellowish precipitate formed is filtered off and washed with water.

reactant | 4-[2-(1-methyl-indol-2-yl)ethyl]benzonitrile | 6.53 mmol, 1.7 g | CN1C(=CC2=CC=CC=C12)CCC1=CC=C(C#N)C=C1 | C18H16N2
reactant | potassium nitrate | 6.53 mmol, 0.66 g | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 4-[2-(1-methyl-5-nitro-indol-2-yl)ethyl]benzonitrile | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])CCC1=CC=C(C#N)C=C1 | C18H15N3O2
